US06770665B2
3-(2-Chloro-6-fluorophenyl)-5-[2-methyl-5-(4-trifluoromethoxyphenyl)thien-3-yl]-1-methyl-1H-1,2,4-triazole
n-Butyllithium (2.5 N in hexanes, 0.25 mL, 0.4 mmol) was added to a solution of 3-(2-chloro-6-fluorophenyl)-5-[2-bromo-5-(4-trifluoromethoxyphenyl)thien-3-yl]-1-methyl-1H-1,2,4-triazole (190 mg, 0.3 mmol) in dry THF (2 mL) at −75° C. and stirred for 1 hour. Iodomethane (66 mg, 29 μL, 0.5 mmol) was added to this reaction mixture and stirred at −75° C. for 30 minutes. After warming to 0° C., saturated aqueous ammonium chloride (2 mL) was added, followed by water (30 mL) and the mixture was extracted with ether (3×10 mL). The combined ethereal extracts were washed with water (30 mL) and brine (10 mL), dried over magnesium sulphate and chromatographed on silica to give the product (49 mg, 29%) as a yellow solid: mp 153-155° C.; 1H NMR (CDCl3) δ 7.59 (d, 2H), 7.29-7.39 (m, 3H), 7.25 (d, 2H), 7.12 (t, 1H), 4.01 (s, 3H), 2.62 (s, 3H); EI/MS 467 m/e (M−1).

reactant | n-Butyllithium | 0.4 mmol, 2.5 N, 0.25 mL | C(CCC)[Li]
reactant | 3-(2-chloro-6-fluorophenyl)-5-[2-bromo-5-(4-trifluoromethoxyphenyl)thien-3-yl]-1-methyl-1H-1,2,4-triazole | 0.3 mmol, 190 mg | ClC1=C(C(=CC=C1)F)C1=NN(C(=N1)C1=C(SC(=C1)C1=CC=C(C=C1)OC(F)(F)F)Br)C | C20H11BrClF4N3OS
reactant | Iodomethane | 0.5 mmol, 29 μL, 66 mg | IC | CH3I
reactant | ammonium chloride | 2 mL | [Cl-].[NH4+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | 30 mL | O | H2O
product | 3-(2-Chloro-6-fluorophenyl)-5-[2-methyl-5-(4-trifluoromethoxyphenyl)thien-3-yl]-1-methyl-1H-1,2,4-triazole | 49 mg, 29% | ClC1=C(C(=CC=C1)F)C1=NN(C(=N1)C1=C(SC(=C1)C1=CC=C(C=C1)OC(F)(F)F)C)C | C21H14ClF4N3OS
